US06670494B1
The recovered chromium hydroxide was then placed into a beaker provided with a reflux condenser and Dean Stark water trap. 43.8 grams (0.3 Mole) of lysine was added and thereafter 100 ml hexane was added to this mixture and stirred and boiled at atmospheric pressure for 3 hours. In the course of the reaction about 5.3-5.5 ml of water was removed from the reaction media and acquired in the Dean Stark apparatus. The reaction mixture was then cooled and filtered yielding 48.2 grams of chromium lysinate in the form of a fine blue-gray powder.

reactant | chromium hydroxide | [OH-].[Cr+3].[OH-].[OH-]
reactant | lysine | 0.3 Mole, 43.8 grams | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | water | about 5.3-5.5 ml | O | H2O
product | chromium lysinate | 48.2 grams | N[C@@H](CCCCN)C(=O)[O-].[Cr+3].N[C@@H](CCCCN)C(=O)[O-].N[C@@H](CCCCN)C(=O)[O-] | InChI=1S/3C6H14N2O2.Cr/c3*7-4-2-1-3-5(8)6(9)10;/h3*5H,1-4,7-8H2,(H,9,10);/q;;;+3/p-3/t3*5-;/m000./s1
